US04857524
To a solution of 2.66 g of (R)-(-)-thiazolidine-4-carboxylic acid in 10 ml of a 2N sodium hydroxide aqueous solution were added 5.5 g of 3-phenylpropionyl chloride and 15 ml of a 2N-sodium hydroxide aqueous solution with stirring under cooling at the same time. After adding, the mixture was stirred for 2 hours at room temperature, and then the reaction mixture was washed with diethyl ether. The mixture was acidified by adding hydrochloric acid. The acidic mixture was allowed to stand for 30 minutes, and extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue was recrystallized from ethyl acetate to obtain 4.06 g of (R)-(-)-3-(3-phenylpropionyl)thiazolidine-4-carboxylic acid. (yield: 76.5%)

reactant | (R)-(-)-thiazolidine-4-carboxylic acid | 2.66 g | S1CN[C@@H](C1)C(=O)O | C4H7NO2S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | 3-phenylpropionyl chloride | 5.5 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
product | (R)-(-)-3-(3-phenylpropionyl)thiazolidine-4-carboxylic acid | 4.06 g, yield: 76.5% | C1(=CC=CC=C1)CCC(=O)N1CSC[C@H]1C(=O)O | C13H15NO3S
